US04447441
A solution of 2,2,2-trifluoroethylthiourea (8.0 g.) and methyl iodide (3.5 g.) in EtOH (40 ml.) was heated under reflux for 70 minutes, then evaporated to dryness in vacuo. The residue was triturated with ether to give 2,2,2-trifluoroethyl-S-methylisothiourea hydroiodide, m.p. 154°-156° (90%).

reactant | 2,2,2-trifluoroethylthiourea | 8.0 g | FC(CNC(=S)N)(F)F | C3H5F3N2S
reactant | methyl iodide | 3.5 g | CI | CH3I
solvent | EtOH | 40 ml | CCO | C2H6O
product | 2,2,2-trifluoroethyl-S-methylisothiourea hydroiodide | I.FC(CNC(SC)=N)(F)F | InChI=1S/C4H7F3N2S.HI/c1-10-3(8)9-2-4(5,6)7;/h2H2,1H3,(H2,8,9);1H
